US07579368B2
To a solution of ethyl 2-ethoxy-4-nitro-benzoate (12.7 g, 53.1 mmol) in ethanol (94 mL) was added a solution of ammonium chloride (56 mL). The formation of a precipitate was observed. Iron (15.2 g, 271 mmol) was added and the reaction mixture was heated at 80° C. for 16 h. The reaction mixture was cooled and filtered through Celite, and the Celite was rinsed with methylene chloride. Water was added and the product was extracted three times with methylene chloride. The organic layers were dried over magnesium sulfate and concentrated. Purification of the crude residue by flash column chromatography (silica gel, eluting with 0-3% methanol in chloroform) gave ethyl 4-amino-2-ethoxy-benzoate as a tan solid (10.3 g, 99%).

reactant | ethyl 2-ethoxy-4-nitro-benzoate | 53.1 mmol, 12.7 g | C(C)OC1=C(C(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C11H13NO5
reactant | ammonium chloride | 56 mL | [Cl-].[NH4+]
solvent | ethanol | 94 mL | C(C)O | C2H6O
catalyst | Iron | 271 mmol, 15.2 g | [Fe] | Fe
product | ethyl 4-amino-2-ethoxy-benzoate | 10.3 g, 99% | NC1=CC(=C(C(=O)OCC)C=C1)OCC | C11H15NO3
